US04178449
7-(α,α,α-Trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile
A mixture of 0.95 g. of 3-bromo-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine, 0.45 g. cuprous cyanide and 25 ml. of dimethylformamide is refluxed for 16 hours. Evaporation of the reaction mixture gave a residue which has triturated with methylene chloride. The methylene chloride solution is passed through a short column of hydrous magnesium silicate. The effluent is collected and refluxed on a steam bath with gradual addition of n-hexane and the desired nitrile crystallized from solution, m.p. 141°-143° C.

reactant | 3-bromo-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine | BrC=1C=NN2C1N=CC=C2C=2C=C(C=CC2)C(F)(F)F | C13H7BrF3N3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-(α,α,α-Trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | FC(C1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C#N)(F)F | C14H7F3N4
